US06603008B1
5-[5-[4-(1,3-Thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide Hydrochloride (Step 2).
The title compound was prepared according to the procedure of Example 4 using 5-[5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide, instead of 5-{4-chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide.

reactant | 5-[5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | S1C=NC=C1C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H12F3N5O2S2
reactant | 5-{4-chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | ClC=1C(=NN(C1C1=CC=C(C=C1)C=1N=CSC1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11ClF3N5O2S2
product | 5-[5-[4-(1,3-Thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide Hydrochloride | Cl.S1C=NC=C1C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | InChI=1S/C18H12F3N5O2S2.ClH/c19-18(20,21)16-7-14(11-1-3-12(4-2-11)15-9-23-10-29-15)26(25-16)13-5-6-17(24-8-13)30(22,27)28;/h1-10H,(H2,22,27,28);1H
